US06117901
Synthesis of N-(3-chlorophenylacetyl)alanine
The title compound was prepared using L-alanine (Nova Biochem) and 3-chlorophenyl acetic acid (Aldrich) by following General Procedures F or G, followed by hydrolysis using General Procedure D.

reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 3-chlorophenyl acetic acid | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
product | N-(3-chlorophenylacetyl)alanine | ClC=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)O | C11H12ClNO3
